US06258982B1
Preparation of 2-(2-chloro-5amino-benzoyloxy)-2-methyl-propionic Acid Allyl Ester
0.9 g of vanadium-containing active carbon prepared according to Example A1 is added to a solution of 16.1 g of 2-(2-chloro-5-nitrobenzoyloxy)-2-methyl-propionic acid allyl ester and 100 mg of toluene in an autoclave having a stirrer. 82 mg of platinum-carbon catalyst together with 50 mg of hypophosphorous acid and 2 ml of deionised water are placed in a seperate glass vessel, and the mixture is stirred for 10 minutes. The catalyst suspension is then transferred to the autoclave, rinsing the glass vessel with 4 ml of deionised water, and hydrogenated for 2 hours at a temperature of 100° C. and a hydrogen pressure of 20 bar. After cooling and rendering the autoclave inert using nitrogen, the catalyst is filtered off and washed with 20 ml of toluene. After working up by distillation, 14 g of 2-(2-chloro-5-amino-benzoyloxy)-2-methyl-propionic acid allyl ester having a content of 98.9% according to HPLC are obtained (yield 94.8% of theory).

reactant | 2-(2-chloro-5-nitrobenzoyloxy)-2-methyl-propionic acid allyl ester | 16.1 g | C(C=C)OC(C(C)(C)OC(C1=C(C=CC(=C1)[N+](=O)[O-])Cl)=O)=O | C14H14ClNO6
reactant | toluene | 100 mg | C1(=CC=CC=C1)C | C7H8
reactant | hypophosphorous acid | 50 mg | [PH2](=O)O | H3O2P
catalyst | platinum carbon | 82 mg | [Pt].[C]
catalyst | vanadium | 0.9 g | [V] | V
solvent | water | 2 ml | O | H2O
product | 2-(2-chloro-5amino-benzoyloxy)-2-methyl-propionic Acid Allyl Ester | yield 94.8% | C(C=C)OC(C(C)(C)OC(C1=C(C=CC(=C1)N)Cl)=O)=O | C14H16ClNO4
